US07544812B2
2-(4-{3-[1-(4-Bromo-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-methyl-phenoxy)-2-methyl-propionic acid
The titled compound was prepared using 2-Methyl-2-{2-methyl-4-[3-(3-methyl-2-oxo-imidazolidin-4-yl)-propyl]-phenoxy}-propionic acid methyl Ester (0.100 g, 0.287 mmole) and 4-bromo benzyl bromide (0.108 g, 0.431 mmole) to produce an oil (0.058 g, 40%). Mass [EI+] 503, 505 (M+H)+, [EI−] 501, 503 (M−H)−.

reactant | 2-Methyl-2-{2-methyl-4-[3-(3-methyl-2-oxo-imidazolidin-4-yl)-propyl]-phenoxy}-propionic acid methyl Ester | 0.287 mmole, 0.100 g | COC(C(C)(OC1=C(C=C(C=C1)CCCC1N(C(NC1)=O)C)C)C)=O | C19H28N2O4
reactant | 4-bromo benzyl bromide | 0.431 mmole, 0.108 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
product | 2-(4-{3-[1-(4-Bromo-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-propyl}-2-methyl-phenoxy)-2-methyl-propionic acid | BrC1=CC=C(CN2C(N(C(C2)CCCC2=CC(=C(OC(C(=O)O)(C)C)C=C2)C)C)=O)C=C1 | C25H31BrN2O4
